US09388161B2
A 100-mL round-bottom flask was charged with 2,3-dihydro-1H-imidazo[1,2-b]pyrazole (1.7 g, 15.6 mmol) and acetic acid (5 mL). A solution of bromine (7.39 g, 46.2 mmol) in acetic acid (47 mL) was then added slowly. The resulting solution stirred for 3 h at room temperature. The reaction mixture was filtered and the filtrate was concentrated under vacuum to afford 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole hydrobromide (3.0 g, 72%) as a yellow solid. MS (ESI, pos. ion) m/z 188, 190 [M+H]+.

reactant | 2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 15.6 mmol, 1.7 g | N1CCN2N=CC=C21 | C5H7N3
reactant | bromine | 46.2 mmol, 7.39 g | BrBr | Br2
solvent | acetic acid | 47 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole hydrobromide | 3.0 g, 72% | Br.BrC1=C2N(N=C1)CCN2 | InChI=1S/C5H6BrN3.BrH/c6-4-3-8-9-2-1-7-5(4)9;/h3,7H,1-2H2;1H
